US08633186B2
Prepared in a similar manner as example 161c from 2,6-dinitrobenzonitrile and sec-butanol to provide 2-sec-butoxy-6-nitrobenzonitrile. 1H NMR (400 MHz, DMSO-d6) δ 0.98 (t, J=7.5 Hz, 3H), 1.33 (d, J=5.9 Hz, 3H), 1.73 (m, 2H), 4.76 (sext, J=5.9 Hz, 1H), 7.78 (dd, J=6.8, 2.8 Hz, 1H), 7.90 (m, 2H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | sec-butanol | C(C)(CC)O | C4H10O
product | 2-sec-butoxy-6-nitrobenzonitrile | C(C)(CC)OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C11H12N2O3
